* C:\Users\Gonzalo\Documents\GitHub\Circuitos II\1CTDC\CP4_Buck\IRFZ44N\modddd.asc
* Generated by LTspice 24.1.7 for Windows.
V1 N001 0 {Vin}
V2 v2 Vd PULSE(0 {Vpwm} {delta_t} 1n 1n {ton1-(2*delta_t)} {1/f})
L1 Vd Vo 300µ
C1 Vo 0 100µ
R1 Vo 0 95
V3 v3 0 PULSE({Vpwm} 0 0 1n 1n {ton1} {1/f})
M3 Vd v3 0 0 IRFZ44N
M4 N001 v2 Vd Vd IRFZ44N
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Gonzalo\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 20m 0
;step param Vin 12 30 1
.param ton1=D/f
.param Vin=30
.param Vpwm=12
.include IRFZ44N.sub
.param ton2= (1/f) - ton1
* Delay para generar el tiempo muerto entre PWM
* Duty Cicle PWM
* Von PWM
* V2
* V3
.param D = (Vo-VDS_2)/Vin
.param VDS_2 = 250u
.param f = 120000
.param Vo=9.6
.param delta_t = ton1/100
.backanno
.end
