* C:\Users\Gonzalo\Documents\GitHub\Circuitos II\1CTDC\CP5_buck_pwm\Buck y PWM\intento6_error.asc
* Generated by LTspice 24.1.7 for Windows.
V1 Vin 0 30
L1 Vd Vout 300µ
C1 Vout 0 10µ
M3 Vd Vg2 0 0 IRFZ44N
M4 Vin Vg1 Vd Vd IRFZ44N
R2 Vg1 N006 20
C2 Vin 0 470µ
C3 Vout 0 1n
R3 Vg2 N005 20
D1 VCCPWM N004 1N5817
C4 N004 Vd 10n
X§U1 N005 N006 0 pwm VCCPWM N004 Vd VCCPWM IR2104
C5 Vin 0 10µ
R4 N001 Cuadrada 100k
R5 VCCPWM N007 100k
R6 N007 0 100k
R§70k Cuadrada N003 100k
R8 Triangular N003 47k
C6 Triangular N001 33p
R11 VCCPWM Cuadrada 1k
R12 VCCPWM pwm 1k
X§U2 N003 N002 VCCPWM 0 Cuadrada LM393
X§U3 error Triangular VCCPWM 0 pwm LM393
R9 Vout sampling 15k
R10 sampling 0 5.6k
X§U4 N002 N001 VCCPWM 0 Triangular ADTL082
X§U5 N007 N002 VCCPWM 0 N002 ADTL082
V3 VCCPWM 0 11
X§U6 N009 N008 VCCPWM 0 error ADTL082
V_Ref Vref 0 2.5
Rc Vout 0 50
C8 Cuadrada 0 1.5p
C12 pwm 0 15p
R15 sampling N008 10k
C7 P001 N008 0.1n
R16 sampling P001 500
C9 P002 error 100n
R17 N008 P002 10k
V2 -VCCPWM 0 -10
C10 N008 error 1.7n
R7 VCCPWM N009 1k
X§U7 0 N009 N009 TL431
C11 VCCPWM 0 10n
.model D D
.lib C:\Users\Gonzalo\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Gonzalo\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 100m 0 0.5m startup
.param Rpot 100k
.inc LM393.5_1
.param R4 100k
.include LM324.mod
.options gmin=1e-11
.options abstol=1e-10
.options reltol=0.006
.options cshunt=1e-15
.lib ADI.lib
.lib C:\Users\Gonzalo\Documents\GitHub\Circuitos II\1CTDC\CP5_buck_pwm\Buck y PWM\IR2104.lib
.lib TL431.mod
.backanno
.end
