* C:\Users\Gonzalo\Documents\GitHub\Circuitos II\1CTDC\CP5_buck_pwm\Buck y PWM\Promediado\promediado-20250614T142845Z-1-001\promediado\Conpensacion buck.asc
* Generated by LTspice 24.1.7 for Windows.
C1 out 0 10µF
Rload out 0 50
Vg sw 0 12
X§U1 sw N001 N001 0 d CCM2 Ron=8m VD=0.5 RD=0.05
X§U2 N006 N003 sw 0 y LT1215
Vref1 N006 0 2.5 AC 0
B1 d 0 V=limit(V(x), 0.01, 0.9)
Vz1 x y AC 1
R4 out N002 47k
R5 N002 0 16.8k
L1 out N001 300µ
V1 N007 0 AC 1
C2 N005 N007 1Meg
L2 N002 N005 1Meg
R2 N004 y 10k
C4 N003 y 2.2n
C5 N003 N004 100n
C6 N005 P001 0.1n
R3 P001 N003 500
R6 N005 N003 10k
* Simulation directives
.lib average.lib
* Boost converter\naverage model
* .ac dec 300 1 100k
;step param RLOAD list 8 20
.dc Vduty 0.2 0.9 0.01
* .tran 0 50m 7m 1u
.lib LTC.lib
.backanno
.end
